US07741327B2
A solution of (S)-3-(4-benzyloxy-phenyl)-2-hydroxy-propionic acid (3.1 g, 11.38 mmol) in tetrahydrofuran (50 mL) was treated with a solution of borane tetrahydrofuran complex in tetrahydrofuran (1.0 M, 22.7 mL, 22.76 mmol) at 0° C. The mixture was allowed to slowly warm to room temperature and stirred at this temperature for 2 h. The resulting mixture was carefully quenched with 1N aqueous sodium hydroxide and treated with ethyl acetate. The layers were separated and the aqueous layer extracted twice more with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was immediately treated with excess acetone dimethyl ketal and a catalytic amount of p-toluene sulfonic acid. The mixture was treated with ethyl acetate and water. The aqueous layer made basic with solid potassium carbonate (pH=9), and extracted with ethyl acetate. The organic layers were combined and dried over sodium sulfate, filtered and concentrated in vacuo which afforded (S)-4-(4-benzyloxy-benzyl)-2,2-dimethyl-[1,3]dioxolane (3.1 g, 91%) as a white solid.

reactant | (S)-3-(4-benzyloxy-phenyl)-2-hydroxy-propionic acid | 11.38 mmol, 3.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](C(=O)O)O | C16H16O4
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 22.76 mmol, 1.0 M, 22.7 mL | O1CCCC1 | C4H8O
product | (S)-4-(4-benzyloxy-benzyl)-2,2-dimethyl-[1,3]dioxolane | 3.1 g, 91% | C(C1=CC=CC=C1)OC1=CC=C(C[C@@H]2OC(OC2)(C)C)C=C1 | C19H22O3
